US07425653B2
(3-5) Synthesis of 2,8-diisopropyl chrysene
Under an atmospheric argon gas flow, 2-isopropyl-6-(4-isopropyl-2-(2-methoxy vinyl)phenyl)naphthalene in an amount of 4.3 g (12 mmol), several drops of methyl acid, and desiccated dichloromethane in an amount of 50 milliliter were placed into a three necked-flask equipped with a cooling pipe and having a capacity of 300 milliliter, and the resultant solution was stirred at the room temperature for 8 hours. After the reaction terminated, adding sodium bicarbonate solution in an amount of 100 milliliter into the reacted solution, crystals were separated by filtration. The resultant crude product was washed with the use of water and methanol, and then, it was vacuum dried at the temperature of 50° C. for 8 hours, and as a result, 3.5 g of an aimed compound (white crystal) was obtained (yield: 90%).

reactant | 2-isopropyl-6-(4-isopropyl-2-(2-methoxy vinyl)phenyl)naphthalene | C(C)(C)C1=CC2=CC=C(C=C2C=C1)C1=C(C=C(C=C1)C(C)C)C=COC | C25H28O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2,8-diisopropyl chrysene | 3.5 g, yield: 90% | C(C)(C)C1=CC=2C=CC3=C4C=CC(=CC4=CC=C3C2C=C1)C(C)C | C24H24
